US08669266B2
(vi) 4-[(S)-5-(tert-Butyl-diphenyl-silanyloxy)-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-pentanoyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 385 mg 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid in 10 ml DMF were added 215 mg HOBt, 270 mg EDC and 0.4 ml DIPEA. After 20 minutes 506 mg 4-[(S)-2-Amino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester hydrochloride were added and the mixture stirred for 12 h. The reaction mixture was concentrated, diluted with ethyl acetate and washed with aqueous LiCl (4%), 0.1 M HCl and saturated aqueous NaHCO3. The crude product thus obtained was pure enough for the following transformation. Yield: 850 mg.

reactant | 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | 385 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)=O | C22H25N3O5
reactant | HOBt | 215 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-[(S)-2-Amino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester hydrochloride | 506 mg | Cl.C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N)=O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EDC | 270 mg
product | 4-[(S)-5-(tert-Butyl-diphenyl-silanyloxy)-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-pentanoyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C52H68N6O8Si
